US09340527B2
Compound was prepared in a manner similar to that of 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid using 4-Propyl-piperidine-4-carboxylic acid (0.185 g, 1.08 mmol), 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.3 g, 0.9 mmol) and Acetic acid (0.18 mL, 3.1 mmol) in Methanol (1.8 mL, 44 mmol) and Sodium cyanoborohydride (84.101 mg, 1.3383 mmol) to give 16 mg 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-propyl-piperidine-4-carboxylic acid (4%). ESI-LCMS 466 (M+H). 1H NMR (METHANOL-d4, 400 MHz): δ (ppm) 7.54-7.88 (m, 3H), 7.31-7.43 (m, 1H), 7.14-7.25 (m, 1H), 6.98-7.12 (m, 1H), 4.12-4.40 (m, 2H), 3.33-3.50 (m, 2H), 2.82-3.08 (m, 2H), 2.05-2.42 (m, 3H), 1.74-1.95 (m, 2H), 0.94-1.64 (m, 12H), 0.82 (s, 13H).

reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)CC | C29H41NO3
reactant | 4-Propyl-piperidine-4-carboxylic acid | 1.08 mmol, 0.185 g | C(CC)C1(CCNCC1)C(=O)O | C9H17NO2
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.9 mmol, 0.3 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | Acetic acid | 3.1 mmol, 0.18 mL | C(C)(=O)O | C2H4O2
reactant | Methanol | 44 mmol, 1.8 mL | CO | CH4O
reactant | Sodium cyanoborohydride | 1.3383 mmol, 84.101 mg | C(#N)[BH3-].[Na+]
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-propyl-piperidine-4-carboxylic acid | 16 mg, 4% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)CCC | C30H43NO3
